US07790770B2
To a solution of (S)-2-(2,2,2-trifluoroethyl)oxirane (2.00 g, 16.0 mmol) in a mixture of EtOH (16 mL) and H2O (4 mL) were added NaN3 (2.06 g, 32.0 mmol) and NH4Cl (1.70 g, 32.0 mmol). After stirring at room temperature for 18 h, the reaction mixture was diluted with H2O (50 mL), extracted with Et2O (2×75 mL). The combined organic layer was dried over MgSO4, filtered and concentrated to give (S)-1-azido-4,4,4-trifluorobutan-2-ol as an oil (2.26 g, 83% yield). NMR: 400 MHz (CDCl3) 4.17 ppm, 1H, ddd, J=6.81, 3.74, 3.52 Hz; 3.48 ppm, 1H, m; 3.37 ppm, 1H, m; 2.35 ppm, 2H, m.

reactant | (S)-2-(2,2,2-trifluoroethyl)oxirane | 16.0 mmol, 2.00 g | FC(C[C@@H]1OC1)(F)F | C4H5F3O
reactant | NaN3 | 32.0 mmol, 2.06 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 32.0 mmol, 1.70 g | [NH4+].[Cl-]
solvent | EtOH | 16 mL | CCO | C2H6O
solvent | H2O | 4 mL | O | H2O
solvent | H2O | 50 mL | O | H2O
product | (S)-1-azido-4,4,4-trifluorobutan-2-ol | 2.26 g, 83% yield | N(=[N+]=[N-])C[C@H](CC(F)(F)F)O | C4H6F3N3O
